US05908858
59(i) 4-Chloro-N-(4-sulfamoylbenzylidene)aniline
Following a procedure similar to that described in Example 1(i), but using 4-sulfamoylbenzaldehyde and 4-chloroaniline as starting materials, the title compound was obtained as a pale yellow powder (yield 72%).

reactant | 4-sulfamoylbenzaldehyde | S(N)(=O)(=O)C1=CC=C(C=O)C=C1 | C7H7NO3S
reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
product | 4-Chloro-N-(4-sulfamoylbenzylidene)aniline | ClC1=CC=C(N=CC2=CC=C(C=C2)S(N)(=O)=O)C=C1 | C13H11ClN2O2S
